US07119201B2
N-(2-Chloroacetyl)-4-(4-methoxyphenoxy)benzamide
4-(4-Methoxyphenoxy)benzamide (8.34 g, 34.3 mmol) and chloroacetyl chloride (19.4 g, 171 mmol) were heated together at 100° C. for 2 hours. The cooled mixture was diluted with ethyl ether and hexane. After stirring for 1 hour at room temperature the solid was collected yielding 8.98 g of N-(2-chloroacetyl)-4-(4-methoxyphenoxy)benzmide as a light orange solid. MS (m/z, APCI): 320 [M+H]+.

reactant | 4-(4-Methoxyphenoxy)benzamide | 34.3 mmol, 8.34 g | COC1=CC=C(OC2=CC=C(C(=O)N)C=C2)C=C1 | C14H13NO3
reactant | chloroacetyl chloride | 171 mmol, 19.4 g | ClCC(=O)Cl | C2H2Cl2O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | N-(2-Chloroacetyl)-4-(4-methoxyphenoxy)benzamide | ClCC(=O)NC(C1=CC=C(C=C1)OC1=CC=C(C=C1)OC)=O | C16H14ClNO4
